US04319914
Preparation of Ethyl N-(4,5,6,7-Tetrahydrobenzothiazol-2-yl)carbamate
2-Amino-4,5,6,7-tetrahydrobenzothiazole (12.3 grams; 0.08 mol) dissolved in pyridine (50 ml.) was charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and addition funnel. Ethyl chloroformate (12 ml; 0.11 mol) was added dropwise to the reaction mixture with stirring and cooling. After the addition was completed the reaction mixture was allowed to warm to room temperature and stirring was continued for a period of about 1 hour. After this time the reaction mixture was poured into ice water (50 mol.) to form a precipitate. The precipitate was recovered by filtration, washed with water four times dried and recrystallized from ethanol to yield the desired product ethyl N-(4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate; (16.7 grams); melting point 182°-184° C. The structure of the product was verified by infrared and NMR spectroscopy.

reactant | 2-Amino-4,5,6,7-tetrahydrobenzothiazole | 0.08 mol, 12.3 grams | NC=1SC2=C(N1)CCCC2 | C7H10N2S
reactant | Ethyl chloroformate | 0.11 mol, 12 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl N-(4,5,6,7-tetrahydrobenzothiazol-2-yl)carbamate | S1C(=NC2=C1CCCC2)NC(OCC)=O | C10H14N2O2S
